US07317033B2
b) N-(2-Amino-3-fluorophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 3-fluoro-1,2-diaminobenzene. Crystalline solid, point of decomposition >240° C.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 3-fluoro-1,2-diaminobenzene | FC=1C(=C(C=CC1)N)N | C6H7FN2
product | N-(2-Amino-3-fluorophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1F)NC(=S)NC1=CSC=C1C | C12H12FN3S2
